Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / Trimethoprim / Prednisone Acetate / Sulfa 
(Sulfonamides) / Morphine Sulfate
 
Attending: ___.
 
Chief Complaint:
s/p fall, urinary incontinence

 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms. ___ is a ___ y/o F w/ bipolar and anxiety disorder who 
presents s/p 2 recent falls.  Per the patient, three days ago, 
she was walking through the door to her mother's apartment and 
as she was attempting to close the door behind her, she suddenly 
fell backwards and hit the back of her head against the door.  
The patient states that she had no loss of consciousness and 
that she remembers the entire event.  She states that she did 
not stumble or fall over anything.  When asked why she believes 
she fell, she states that "it is because I have conversion and 
anxiety disorder."  Immediately after the fall, the patient 
states that she had a ___ headache.  However, she denies any 
neurologic symptoms (no blurry vision, hearing loss, tinnitis, 
dysarthria, numbness/tingling, or muscle weakness) and no 
nausea/vomiting.  Patient states that a fall of this sort 
occurred twice in the past 2 days.  On the night prior to 
admission, the patient's mother found her in bed and noted that 
she had urinated on herself and was confused.  As a result, the 
patient's mother called ___.  When asked about the confusion, 
the patient states that she must have been confused because she 
urinated on herself. 
On ROS, patient endorses heachache and recent weight loss of 
approximately 20 lbs which she attributes to not eating well.  
She also states that she hasn't had a bowel movement in one 
month.  When asked about her diet, she states that she doesn't 
like to drink water because every time she does, she has to go 
to the bathroom.  She also states that she hasn't been eating 
because she doesn't like food.  She denies fevers/chills, 
abdominal pain, SOB, difficulty breathing, or additional urinary 
symptoms (no dysuria, hematuria, urgency, or frequency).  
In the ED, the patient's vital signs were as follows: T 98.7 BP 
136/77 AR 93 RR O2 sat 99% RA.  She received 1L of normal 
saline.  She had a head CT which on preliminary read showed no 
acute intracranial process, including no hemorrhage, edema or 
mass.  In the ED, it was noted that she had an unsteady gait and 
___ was consulted. ___ stated that the patient was not currently 
safe for home discharge and could potentially require discharge 
to rehab to maximize safety and address impairments.       
 
Past Medical History:
1)Biploar disorder
2)Anxiety Disorder
3)Gait instability
- Per the patient, she had cardiac arrest after an appendectomy 
at age ___ and gait became unstable at age ___.  
- Per the PCP, the unsteady gait is known and most likely 
psychiatric in nature, followed at ___, but typically 
misses appointments)
4)Hx of trochanteric bursitis
5)Lumbar disc disease
6)Urinary incontinence
7)hx of ovarian cyst
8)Siatica
9)Asthma
10)Irritable bowel syndrome
11)Low back pain
12)Obesity
 
Social History:
___
Family History:
Father has bipolar disorder.  Mother has high blood pressure and 
diverticulitis.  

 
Physical Exam:
VS: T: 98.8 HR: 102 BP: 114/76 RR: 20 O2sat: 90RA
gen: NAD, but w/ flat affect
MS: AAO x 3, on folstein mini mental status, unable to spell 
world backwards or do serial 7s, 5 minute recall was ___, but 
___ on prompting
Neuro: CN II - XII intact, strength: B/L UEs and ___ ___, 
sensation grossly intact throughout, good coordination (able to 
do finger to nose and heel to shin), 2+ biceps reflex b/l, 
unable to obtain patellar or achilles reflex, babinski: 
downgoing toes b/l
CV: RRR, no m/r/g
Pulm: CTAB
Abd: soft, non- tender, non- distended, +BS, patient refused 
rectal exam
ext: UEs - ___ - appear well perfused, but feet are cold, 
(patient attributes this to poor circulation) 

 
Pertinent Results:
___ 11:25PM BLOOD WBC-8.7 RBC-4.18* Hgb-13.0 Hct-36.5 
MCV-87 MCH-31.1 MCHC-35.6* RDW-13.5 Plt ___
___ 11:25PM BLOOD Plt ___
___ 09:24PM BLOOD Glucose-84 UreaN-16 Creat-1.1 Na-136 
K-5.9* Cl-103 HCO3-19* AnGap-20

Relevant Imaging:
CT head (___): No acute intracranial process, including no 
hemorrhage, edema or mass. 

 
Brief Hospital Course:
1)Falls/Unsteady gait - The patient's falls are most likely 
mechanical in nature, most likely related to her unsteady gait.  
The patient underwent at head CT in the emergency room which 
showed no acute neurological process.  Orthostatic vital signs 
were obtained and were positive on admission and she was given a 
1L bolus of normal saline. Orthostatic vital signs were 
rechecked prior to discharge and she was not orthostatic. Her 
EKG showed no abnormal changes.  Physical therapy was consulted 
and thought that the patient would benefit from ___ rehab. 
 Of note, the primary care physician reports that the patient 
has had gait unsteadiness for the past several years.  The PCP 
believes it to be most likely psychogenic in origin.  The 
patient is supposed to be followed by a provider at ___ 
___, but per the PCP, the patient has been non-compliant with 
these appointments.  She has had extensive work-up for her 
unstable gait. Physical therapy worked with her throughout this 
admission and recommended acute rehab. 

3) Urinary incontinence - The patient had one episode of urinary 
incontinence two days after her fall.  She also had an episode 
of incontinence during her inpatient stay as well.  Again, per 
the primary care physician, the patient has a history of urinary 
incontinence not otherwise specified.  The patient never 
reported any other urinary symptoms.  Urinalysis and urine 
culture were obtained and found to be negative.  The patient 
refused a rectal exam on several occasions.    

3) Acute urinary retention - The patient did not urinate over 
the entire nursing shift 7 am - 7 pm on ___.  As a 
result, the patient was bladder scanned and found to have ~ 900 
ccs in her bladder.  A foley was placed on the evening of 
___.  The etiology of the patient's acute urinary 
retention was unclear. The foley was discontinued on ___ 
and the patient is due to void between 3:30 - 5:30 pm on the day 
of discharge.  If the patient does not void, the foley is to be 
replaced. If she requires a foley, she will need outpatient 
follow-up with urology. The contact information is provided in 
the discharge instructions. 

4) Bipolar & Anxiety Disorder/Altered MS - Per the patient, she 
does not take any medications.  Per the PCP, the patient has 
been intermittently non-compliant with her medication, prompting 
her to receive IM risperdol injections every 2 weeks.  With 
additional prompting, the patient finally admitted to receiving 
the IM risperdal.  The PCP also states that the patient is 
supposed to be taking Clonopin, which the patient adamantly 
denies.  On admission, the patient was alert and oriented to 
name, date, and place.  However, she had no insight into her 
psychiatric disorder as she reported "anxiety and conversion 
disorder" as the cause of her fall.  She reported no visual or 
auditory hallucinations.  Her mental status remained stable and 
consistent throughout her hospital course.  She intermittently 
refused medications and refused to eat.  Psychiatry was 
consulted during her stay and recommended starting 1 mg of PO 
risperdal two times per day with a plan to convert her to IM 
risperdal as an outpatient by her psychiatrist.         
 
Medications on Admission:
Meds: Patient reports that she takes no medications.  PCP 
reports that patient has an off and on history of non- 
compliance.  

Faxed list of meds from PCP:

___ 50 mg TAB qday
Clonazepam 1 mg TAB qday
Advair Diskus 250 mcg-50 mcg (fluticasone/salmeterol)
Hydrochlorothiazide 12.5 mg qday
Risperdal consta 25 mg/2 ml IM q 2 weeks
Protonix 40 mg PO qday
Albuterol Aerosol 90 mcg IH
Albuteral sulfate Premixed solution 0.83 mg/ml IH
Pneumococcal vaccine ___
 
Discharge Medications:
1. Risperidone 1 mg Tablet Sig: One (1) Tablet PO twice a day. 
Tablet(s) 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Mechanical Fall
Urinary Incontinence, NOS
Unstable Gait, NOS
Bipolar Disorder
Anxiety Disorder
Urinary retention

Secondary: 
Asthma

 
Discharge Condition:
Stable

 
Discharge Instructions:
1) You were admitted because you fell and hit your head against 
a door two times, approximately ___ days ago. You had a head CT 
which showed no acute neurologic process. You were found to have 
an unsteady gait, and were subsequently seen by physical 
therapy.  Physical therapy did not think it was safe for you to 
be discharged to your home.  As a result, they recommend that 
you be discharged to a rehabilitation facility. 

2) You presented with 1 episode of urinary incontinence and had 
an episode of incontinence while in the hospital as well.  You 
also had an episode of urinary retention, for which a foley 
catheter was placed. The foley catheter was discontinued prior 
to discharge and you are due to void betwen 3:30 and 5:30 pm on 
the day of discharge.  If you do not void, the foley will need 
to be replaced at the rehab facility. Your urinalysis and 
culture were negative.  If you are not able to void and a foley 
is required, you will need to be seen by a urologist for these 
symptoms.  The number for ___ Urology is ___.
    
3)You were seen by the psychiatrist during this admission. They 
recommended that you be restarted on ___ 1mg BID.  

4)You also reported that you do not take any medications, but 
your primary care physician states that you should be taking 
several medications.  You will need to follow-up with your 
primary care physician regarding your home medication regimen.  

5) Please schedule a follow-up appointment with your primary 
care physician ___ 1 week after being discharged from the 
hospital.

6) If you experience fever, chills, chest pain, shortness of 
breath, difficulty breathing, or any other concerning symptoms, 
please seek immediate medical attention.  
 
Followup Instructions:
___